US07442752B2
Preparation of Phenyl Norbornene
DCPD (Aldrich, 55 mL, 0.41 mol), styrene (Aldrich, 146 mL, 1.27 mol), and 4-t-butylcartechol (1.9 g, 11.4 mmol) were put in a 2 L autoclave. After heating to 180° C., reaction was carried out for 4 hours while stirring the autoclave at 300 rpm. After the reaction was completed, the reaction mixture was cooled down. The reaction mixture was diluted with toluene and precipitated in ethanol. After the obtained polystyrene was filtered, the solvent was removed, and the filtrate was transferred to a distillation unit. The filtrate was distilled at 1 torr twice using a vacuum pump at 70° C. to obtain the product (yield: 43%).

reactant | DCPD | 0.41 mol, 55 mL | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
reactant | styrene | 1.27 mol, 146 mL | C=CC1=CC=CC=C1 | C8H8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Phenyl Norbornene | yield: 43% | C1(=CC=CC=C1)C12C=CC(CC1)C2 | C13H14
